US05882628
b. 3,5-Dinitrostyrene
3,5-Dinitrophenylethanol (1.0 g, 4.7 mmol) was mixed with P2O5 (1.0 g, 0.71 mmol) and the stirred mixture was heated to 100° C. After 3 h, the mixture was allowed to cool to room temperature and water (0.4 ml) was added. The pH was adjusted to 9 using 1M aqueous NaOH and extracted with diethyl ether (2×25 ml). The combined organic phases were dried (Na2SO4) and evaporated. The crude product was used without further purification in the next step.

reactant | 3,5-Dinitrophenylethanol | 4.7 mmol, 1.0 g | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C(C)O | C8H8N2O5
reactant | P2O5 | 0.71 mmol, 1.0 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | NaOH | 1M | [OH-].[Na+]
solvent | water | 0.4 ml | O | H2O
product | 3,5-Dinitrostyrene | [N+](=O)([O-])C=1C=C(C=C)C=C(C1)[N+](=O)[O-] | C8H6N2O4
